US03969366
b. 3-[5-Chloro-2-(methylamino)phenyl]-4-[2-oxo-2-(1-pyrrolidinyl)-ethyl]-5-methyl-1,2,4-triazole, hydrochloride (1:1)
Following the procedure of Example 1b but substituting an equivalent amount of 10-chloro-3,7-dimethyl-5H-s-triazolo-[4,3-d][1,4]benzodiazepin-6(7H)-one for the 10-chloro-7-methyl-3-(trifluoromethyl)-5H-s-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one, one obtains the titled compound.

reactant | 10-chloro-3,7-dimethyl-5H-s-triazolo-[4,3-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C=3N(CC(N2C)=O)C(=NN3)C)C1 | C12H11ClN4O
reactant | 10-chloro-7-methyl-3-(trifluoromethyl)-5H-s-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C=3N(CC(N2C)=O)C(=NN3)C(F)(F)F)C1 | C12H8ClF3N4O
product | 3-[5-Chloro-2-(methylamino)phenyl]-4-[2-oxo-2-(1-pyrrolidinyl)-ethyl]-5-methyl-1,2,4-triazole, hydrochloride | Cl.ClC=1C=CC(=C(C1)C1=NN=C(N1CC(N1CCCC1)=O)C)NC | InChI=1S/C16H20ClN5O.ClH/c1-11-19-20-16(13-9-12(17)5-6-14(13)18-2)22(11)10-15(23)21-7-3-4-8-21;/h5-6,9,18H,3-4,7-8,10H2,1-2H3;1H
